US07932262B2
Preparation of 4-(5-bromo-8-(piperidin-4-yloxy)quinazolin-2-ylamino)-3-methoxy-N-(1-methylpiperidinyl)benzamide
A mixture of 4-(5-bromo-8-(piperidine-4-yloxy)quinazolin-2-ylamino)-3-methoxybenzoic acid (1 eq), 4-amino-N-methylpiperidine (2 eq), HATU (1.5 eq) and DIEA (3 eq) in NMP was stirred at room temperature for 4 h. The reaction mixture was concentrated and purified by semi-prep HPLC to provide pure product in 45% yield.

reactant | 4-(5-bromo-8-(piperidine-4-yloxy)quinazolin-2-ylamino)-3-methoxybenzoic acid | 1 eq | BrC1=C2C=NC(=NC2=C(C=C1)OC1CCNCC1)NC1=C(C=C(C(=O)O)C=C1)OC | C21H21BrN4O4
reactant | 4-amino-N-methylpiperidine | 2 eq | NC1CCN(CC1)C | C6H14N2
reactant | HATU | 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-(5-bromo-8-(piperidin-4-yloxy)quinazolin-2-ylamino)-3-methoxy-N-(1-methylpiperidinyl)benzamide | 45% yield | BrC1=C2C=NC(=NC2=C(C=C1)OC1CCNCC1)NC1=C(C=C(C(=O)NC2N(CCCC2)C)C=C1)OC | C27H33BrN6O3
